US08865712B2
d) Methanesulfonic acid 2-(6-bromo-3-fluoro-pyridin-2-yl)-2-hydroxy-propyl ester
To a solution of 2-(6-bromo-3-fluoro-pyridin-2-yl)-propane-1,2-diol (18.29 g, 73.1 mmol) in dichloromethane (350 ml) was added triethylamine (20.39 ml, 146 mmol). Methanesulfonyl chloride (6.27 ml, 80 mmol) was added dropwise at 0° C. over 10 minutes. Stirring was continued at 0° C. for 30 minutes. The reaction mixture was washed with sat. sodium bicarbonate solution, water and brine. The organic layer was dried over sodium sulfate, filtered and evaporated. 31.46 g (crude, used without further purification in the next step). LCMS RtH5=0.81 min. (ES+ 328, 330); 1H-NMR (360 MHz, CDCl3): 7.52 (dd, 1H), 7.41 (dd, 1H), 5.13 (s, 1H, OH), 4.61 (d, 1H), 4.45 (d, 1H), 3.05 (s, 3H, CH3SO2), 1.61 (s, 3H, CH3).

reactant | 2-(6-bromo-3-fluoro-pyridin-2-yl)-propane-1,2-diol | 73.1 mmol, 18.29 g | BrC1=CC=C(C(=N1)C(CO)(C)O)F | C8H9BrFNO2
reactant | triethylamine | 146 mmol, 20.39 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 80 mmol, 6.27 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid 2-(6-bromo-3-fluoro-pyridin-2-yl)-2-hydroxy-propyl ester | BrC1=CC=C(C(=N1)C(COS(=O)(=O)C)(C)O)F | C9H11BrFNO4S
